### PR TITLE
Simplify proof of Peano_dec.le_unique (redux)

### PR DESCRIPTION
**Pull request by jeanas**
Redux of #19791

### CODE REVIEW

File: theories/Arith/Peano_dec.v [hunk 1]
```diff
@@ -35,28 +35,23 @@ Register dec_eq_nat as num.nat.eq_dec.
 
 Definition UIP_nat:= Eqdep_dec.UIP_dec Nat.eq_dec.
 
-Import EqNotations.
+Scheme le_ind_dep := Induction for le Sort Prop.
```
Comment (SkySkimmer) [inline theories/Arith/Peano_dec.v:38]: maybe worth moving this next to the declaration of le

Comment (SkySkimmer) [reply theories/Arith/Peano_dec.v]: yes

**Comment by jeanas** [comment]
The Windows CI error is

```
#=== ERROR while compiling cairo2.0.6.5 =======================================#
# context              2.0.10 | win32/x86_64 | ocaml-variants.4.14.2+flambda+mingw64c | [https://opam.ocaml.org#2ac5b4411dc6433623d35bbb1ad092b393d3174e](https://opam.ocaml.org/#2ac5b4411dc6433623d35bbb1ad092b393d3174e)
# path                 C:/ci/cygwin64/opam/CP.2024.10.1~dev/.opam-switch/build/cairo2.0.6.5
# command              C:\ci\cygwin64\opam\CP.2024.10.1~dev\bin\dune.exe build -p cairo2 -j 2
# exit-code            1
# env-file             C:/ci/cygwin64/opam/log/cairo2-4092-8b47d2.env
# output-file          C:/ci/cygwin64/opam/log/cairo2-4092-8b47d2.out
### output ###
# compiling c program:
# [...]
#  | };
#  | 
# run: x86_64-w64-mingw32-gcc -O2 -fno-strict-aliasing -fwrapv -mms-bitfields   -I/usr/include/cairo -I C:/ci/cygwin64/opam/CP.2024.10.1~dev/lib/ocaml -o C:\ci\cygwin64\tmp\build_3b8c38_dune\ocaml-configuratoradf17e\c-test-1\test.o -c C:\ci\cygwin64\tmp\build_3b8c38_dune\ocaml-configuratoradf17e\c-test-1\test.c -lws2_32 -lversion
# -> process exited with code 1
# -> stdout:
# -> stderr:
#  | C:\ci\cygwin64\tmp\build_3b8c38_dune\ocaml-configuratoradf17e\c-test-1\test.c:2:10: fatal error: cairo.h: No such file or directory
#  |     2 | #include <cairo.h>
#  |       |          ^~~~~~~~~
#  | compilation terminated.
# Error: failed to compile program
```

No idea what the problem is but it doesn't look related to this PR… I will have a look at the other failures.

**Comment by SkySkimmer** [comment]
To fix the test suite do `make -C test-suite approve-output` then commit  the resulting changes
ignore windows

**Comment by jeanas** [comment]
Done, thanks.

File: test-suite/output/auto_order.out
Comment (SkySkimmer) [inline test-suite/output/auto_order.out:1]: what's going on in this file?

**Review by andres-erbsen — APPROVED** [review]
@coqbot run full ci

just in case somebody else's test suite is similarly over-rigid

**Comment by andres-erbsen** [comment]
@coqbot run full ci

**Comment by mrhaandi** [comment]
If you are using `le_ind_dep`, there is a more concise proof of `le_unique`:
```coq
Lemma le_unique: forall (m n : nat) (le_mn1 le_mn2 : m <= n), le_mn1 = le_mn2.
Proof.
  enough (forall m n1 (le_mn1 : m <= n1) n2 (le_mn2 : m <= n2) (E : n1 = n2), 
    le_mn1 = eq_rect_r _ le_mn2 E) as H.
  { intros m n le_mn1 le_mn2. apply (H m n le_mn1 n le_mn2 eq_refl). }
  intros m. refine (le_ind_dep m _ _ _).
  - intros n2 [|? le_mn2] E.
    + now rewrite (UIP_nat _ _ E eq_refl).
    + subst. destruct (Nat.nle_succ_diag_l _ le_mn2).
  - intros ? le_mn1 IH n2 [|? le_mn2] E.
    + subst. destruct (Nat.nle_succ_diag_l _ le_mn1).
    + destruct (Nat.succ_inj _ _ E).
      now rewrite (IH _ le_mn2 eq_refl), (UIP_nat _ _ E eq_refl).
Qed.
```
